US05589489
3-[1-(3,4-Dichlorophenyl)-3-[4-(2-methylsulfinylphenyl)-piperidino)propyl]-2-ethyl-2,3-dihydroisoindol-1-one hydrochloride.
3-(3,4-Dichlorophenyl)-3-(2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.24 g) and 4-(2-methylsulfinylphenyl)piperidine (0.224 g) were coupled using conditions similar to those described Example 1 to give the title compound (0.198 g); mp 150° C. (dec); MS: m/z=571(M+1); NMR (CD3OD): 1.3 (m,3), 2.0 (m, 6), 2.6 (m,1), 3.3 (m, 12), 5.05 (m,1), 7.28 (m,11). Analysis for C31H34Cl2N2O2A·1.0 HCl·0.9 H2O: Calculated: C, 59.83; H, 5.96; N, 74.50; Found: C, 59.55; H, 5.76; N, 4.89.

reactant | 3-(3,4-Dichlorophenyl)-3-(2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.24 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=CC=C12)=O)CC | C19H17Cl2NO2
reactant | 4-(2-methylsulfinylphenyl)piperidine | 0.224 g | CS(=O)C1=C(C=CC=C1)C1CCNCC1 | C12H17NOS
product | 3-[1-(3,4-Dichlorophenyl)-3-[4-(2-methylsulfinylphenyl)-piperidino)propyl]-2-ethyl-2,3-dihydroisoindol-1-one hydrochloride | 0.198 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)C1=C(C=CC=C1)S(=O)C)C1N(C(C2=CC=CC=C12)=O)CC | InChI=1S/C31H34Cl2N2O2S.ClH/c1-3-35-30(25-9-4-5-10-26(25)31(35)36)24(22-12-13-27(32)28(33)20-22)16-19-34-17-14-21(15-18-34)23-8-6-7-11-29(23)38(2)37;/h4-13,20-21,24,30H,3,14-19H2,1-2H3;1H
